US08044041B2
4-(2-Aminomethyl-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution 4-(2-cyano-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (150 mg, 0.42 mmol) in NH3/EtOH (2M, 10 mL) was added Raney Nickel (3 mL slurry in water). The atmosphere was exchanged with hydrogen via balloon and the mixture was allowed to stir for 30 min. After this time the mixture was filtered through celite and concentrated to yield the title compound (148 mg). m/z (M+1) 360.23.

reactant | 4-(2-cyano-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.42 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)C#N | C17H20F3N3O2
reactant | hydrogen | [H][H] | H2
solvent | NH3 EtOH | 2M, 10 mL | N.CCO
catalyst | Raney Nickel | 3 mL | [Ni] | Ni
product | 4-(2-Aminomethyl-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 148 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)CN | C17H24F3N3O2
